US05889002
b) 3-Amino-5-chlorothiophene-2-sulfonamide hydrochloride
3-Amino-5-chlorothiophene-2-sulfonic acid tert-butylamide (40.4 g) was heated with stirring at 50° C. to 60° C. in 200 ml of conc. hydrochloric acid for 2.5 h. The crude product was isolated from the cooled mixture by filtration, dried and purified by trituration with 60 ml of ether to afford 17.8 g (48%) of the title compound. 1H-NMR (DMSO-d6): δ 6.64 (s, 1H), 6.84 (very br., 5H).

reactant | 3-Amino-5-chlorothiophene-2-sulfonic acid tert-butylamide | 40.4 g | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1N)Cl | C8H13ClN2O2S2
solvent | hydrochloric acid | 200 ml | Cl | ClH
product | 3-Amino-5-chlorothiophene-2-sulfonamide hydrochloride | 17.8 g, 48% | Cl.NC1=C(SC(=C1)Cl)S(=O)(=O)N | InChI=1S/C4H5ClN2O2S2.ClH/c5-3-1-2(6)4(10-3)11(7,8)9;/h1H,6H2,(H2,7,8,9);1H
